US09233098B2
1. Preparation of ethyl 2-[1-[4-(4-cyanobenzamido)benzyl]-1H-indazol-3-yl]acetate
Ethyl 2-[1-(4-aminobenzyl)-1H-indazol-3-yl]acetate (176 mg, 0.569 mmol) and triethylamine (173 mg, 1.71 mmol) were dissolved in dichloromethane (15 mL), and in an ice bath dichloromethane solution (10 mL) of 4-cyanobenzoyl chloride (95 mg, 0.574 mmol) was added dropwise slowly. Upon completion of the dropwise addition, it was reacted at room temperature for 16 hours. An aqueous solution of sodium bicarbonate was added to quench, and extracted with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduce pressure, chromatographed on a silica gel column (petroleum ether:ethyl acetate=2:1) to obtain a white solid 121 mg, at a yield of 48.5%.

reactant | Ethyl 2-[1-(4-aminobenzyl)-1H-indazol-3-yl]acetate | 0.569 mmol, 176 mg | NC1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C18H19N3O2
reactant | triethylamine | 1.71 mmol, 173 mg | C(C)N(CC)CC | C6H15N
reactant | 4-cyanobenzoyl chloride | 0.574 mmol, 95 mg | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | ethyl 2-[1-[4-(4-cyanobenzamido)benzyl]-1H-indazol-3-yl]acetate | 121 mg, yield of 48.5% | C(#N)C1=CC=C(C(=O)NC2=CC=C(CN3N=C(C4=CC=CC=C34)CC(=O)OCC)C=C2)C=C1 | C26H22N4O3
